US07098356B2
2-(2-methyl-2-phenylpropan-1-yl)indene.
A mixture of 2-bromoindene (2.0 g, 10.2 mmol) and 460 mg of Pd(AcO)2 in 60 mL of ether was treated with 21 mL of 2-methyl-2-phenyl-propanyl magnesium chloride (0.5 M in ether; 10.2 mmol). The mixture was refluxed for one hour, cooled to room temperature and treated with 30 mL of aqueous hydrochloric acid (5 percent). The reaction was worked-up and the product purified (hexanes/silica) as for 2-benzyl-indene. Yield: 1.6 g (63 percent).

reactant | 2-bromoindene | 10.2 mmol, 2.0 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | 2-methyl-2-phenyl-propanyl magnesium chloride | 10.2 mmol, 0.5 M, 21 mL | CC(C[Mg]Cl)(C)C1=CC=CC=C1
reactant | hydrochloric acid | 30 mL | Cl | ClH
solvent | ether | 60 mL | CCOCC | C4H10O
product | 2-(2-methyl-2-phenylpropan-1-yl)indene | CC(CC=1CC2=CC=CC=C2C1)(C)C1=CC=CC=C1 | C19H20
